US06610692B1
Step B: 4-Cyclopropylbutyl Methanesulfonate
To a stirred 0° C. solution of 683 mg (6.0 mmol) of 4-cyclopropylbutanol and 1.25 mL (9.0 mmol) of triethylamine in 10 mL of CH2Cl2 was added 697 μL (9.0 mmol) of methanesulfonyl chloride dropwise under Ar. The cold bath was allowed to expire over a 2 h period at which time the reaction mixture was diluted with CH2Cl2, washed with cold 1M HCl, water, sat. NaHCO3, brine, dried over MgSO4 and the solvents removed to give the title compound as a yellow oil:

reactant | 4-cyclopropylbutanol | 6.0 mmol, 683 mg | C1(CC1)CCCCO | C7H14O
reactant | triethylamine | 9.0 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.0 mmol, 697 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyclopropylbutyl Methanesulfonate | CS(=O)(=O)OCCCCC1CC1 | C8H16O3S
